US07786129B2
5,7-Dichloro-3-ethyl-3-{4-[4-(4-fluorophenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 1 starting from 5,7-dichloro-3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 4-(4-fluoro-phenyl)-piperazine.

reactant | 5,7-dichloro-3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(CC)CCCCCl | C14H16Cl3NO
reactant | 4-(4-fluoro-phenyl)-piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 5,7-Dichloro-3-ethyl-3-{4-[4-(4-fluorophenyl)-piperazin-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(CCCCN1CCN(CC1)C1=CC=C(C=C1)F)CC | InChI=1S/C24H28Cl2FN3O.ClH/c1-2-24(20-15-17(25)16-21(26)22(20)28-23(24)31)9-3-4-10-29-11-13-30(14-12-29)19-7-5-18(27)6-8-19;/h5-8,15-16H,2-4,9-14H2,1H3,(H,28,31);1H
